US07105544B2
1-(2-CHLORO-4-FLUOROPHENYL)-N-(3-{4-[2-FLUORO-5-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}PROPYL)CYCLOHEXANECARBOXAMIDE
Example 133 was prepared from 1-(2-chloro-4-fluorophenyl)cyclohexanecarboxylic acid and N-{3-[1-(3-aminopropyl)-4-piperidinyl]-4-fluorophenyl}-2-methylpropanamide according to the procedures described in Scheme 9: 1H NMR (400 MHz, CDCl3) δ 7.59 (dd, 1H, J=6.4, 8.5 Hz), 7.44–7.38 (m, 2H), 7.35–7.30 (m, 1H), 7.13 (dd, 1H, J=8.5, 3.0 Hz), 7.00–6.91 (m, 2H), 6.05–5.99 (m, 1H), 3.30 (q, 2H, J=5.7 Hz), 2.92–2.86 (m, 2H), 2.80–2.71 (m, 1H), 2.52 (septet, 1H, J=6.7 Hz), 2.34 (t, 2H, J=5.7 Hz), 2.30–2.24 (m, 3H), 2.13–2.05 (m, 2H), 2.00–1.92 (m, 2H), 1.86–1.69 (m, 4H), 1.66–1.43 (m, 7H), 1.71 (d, 6H, J=6.7 Hz); ESMS m/e: 560.1 (M+H)+.

reactant | 1-(2-chloro-4-fluorophenyl)cyclohexanecarboxylic acid | ClC1=C(C=CC(=C1)F)C1(CCCCC1)C(=O)O | C13H14ClFO2
reactant | N-{3-[1-(3-aminopropyl)-4-piperidinyl]-4-fluorophenyl}-2-methylpropanamide | NCCCN1CCC(CC1)C=1C=C(C=CC1F)NC(C(C)C)=O | C18H28FN3O
product | 1-(2-CHLORO-4-FLUOROPHENYL)-N-(3-{4-[2-FLUORO-5-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}PROPYL)CYCLOHEXANECARBOXAMIDE | ClC1=C(C=CC(=C1)F)C1(CCCCC1)C(=O)NCCCN1CCC(CC1)C1=C(C=CC(=C1)NC(C(C)C)=O)F | C31H40ClF2N3O2
